* LVS reference for pam4drv_lsb_lay (generated by gen_layout.py — matches the GDS exactly)
.subckt pam4drv_lsb_lay inp inn outp outn vcc vcasc vcmb tail sub
QQ1L0 c1L0 inp e1L0 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ2L0 c2L0 inn e2L0 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ3L0 outp vcasc c1L0 sub npn13G2 AE=0.063p PE=1.94u M=3
QQ4L0 outn vcasc c2L0 sub npn13G2 AE=0.063p PE=1.94u M=3
RRE1L0 e1L0 tail rsil w=4.61u l=0.85u m=1
RRE2L0 e2L0 tail rsil w=4.61u l=0.85u m=1
RRbinp inp vcmb rsil w=0.58u l=2.85u m=1
RRbinn inn vcmb rsil w=0.58u l=2.85u m=1
RRcp outp vcc rsil w=1.01u l=5.43u m=1
RRcn outn vcc rsil w=1.01u l=5.43u m=1
CCdegL0 e2L0 e1L0 cap_cmim W=3.45u L=3.45u M=1
.ends
